US06544985B2
(4-Chloro-5-dimethylamino-2-{3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) (143 mg, 0.5 mmol) and 3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K7) (180 mg, 0.6 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (160 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | 0.5 mmol, 143 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | 3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 0.6 mmol, 180 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N(N=CC1)C)=O | C17H20N2O3
product | (4-Chloro-5-dimethylamino-2-{3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C=1N(N=CC1)C)=O)=O | C26H30ClN5O4
